US05972965
A mixture of (2R)-1-benzyloxycarbonyl-2-(4,5-diphenyloxazol-2-yl)pyrrolidine (4 g) and 10% Pd/C (0.5 g) in ethanol (120 ml) was stirred under H2 for 10 hours. The catalyst was filtered off and filtrate was evaporated in vacuo to give (2R)-2-(4,5-diphenyloxazol-2-yl)pyrrolidine. NMR (CDCl3, δ): 1.7-2.3 (4H, m), 2.9-3.2 (2H, m), 3.6-3.8 (1H, m), 4.44 (1H, t, J=6.0 Hz), 7.2-7.7 (10H, m)

reactant | (2R)-1-benzyloxycarbonyl-2-(4,5-diphenyloxazol-2-yl)pyrrolidine | 4 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N2O3
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | (2R)-2-(4,5-diphenyloxazol-2-yl)pyrrolidine | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1NCCC1 | C19H18N2O
